US04551460
A solution of 32.72 g of 4-mercaptopyridine and 61.0 g of 2-bromoethanamine hydrobromide in 200 ml of absolute ethanol was heated to reflux under an argon atmosphere for 2 hours. After cooling the precipitated product was collected and washed with ethanol to give 76.31 g of crude 2-(4-pyridylthio)ethanamine dihydrobromide, mp 250°-254° C. Recrystallization from ethanol (1500 ml) and water (150 ml) with a charcoal treatment afforded 63.09 g (68%) of 2-(4-pyridylthio)ethanamine dihydrobromide, mp 265°-268° C.

reactant | 4-mercaptopyridine | 32.72 g | SC1=CC=NC=C1 | C5H5NS
reactant | 2-bromoethanamine hydrobromide | 61.0 g | Br.BrCCN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-pyridylthio)ethanamine dihydrobromide | 76.31 g | Br.Br.N1=CC=C(C=C1)SCCN | InChI=1S/C7H10N2S.2BrH/c8-3-6-10-7-1-4-9-5-2-7;;/h1-2,4-5H,3,6,8H2;2*1H
